US06596731B2
2-(3,4-Dimethoxy-phenyl)-imidazo[1,2-a]pyridine
The title compound, pale yellow solid, m.p. 96° C. and MS: m/e=254.1 (M+), was prepared in accordance with the general method of example 1 from 2-amino-pyridine and 3,4-dimethoxy-phenacylbromide.

reactant | 2-amino-pyridine | NC1=NC=CC=C1 | C5H6N2
reactant | 3,4-dimethoxy-phenacylbromide | COC=1C=C(C(CBr)=O)C=CC1OC | C10H11BrO3
product | 2-(3,4-Dimethoxy-phenyl)-imidazo[1,2-a]pyridine | COC=1C=C(C=CC1OC)C=1N=C2N(C=CC=C2)C1 | C15H14N2O2
